US04879382
A solution of 4.2 g of 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 75 ml of ethanol, was treated with 800 mg of sodium borohydride and stirred at ambient temperature for 18 hours. The solvent was then concentrated in vacuo and the residue taken up in water and extracted with ethyl acetate (2×). The combined organics were washed with water followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The resultant solid was recrystallized from isopropyl ether:methanol (180:10) to afford 3.1 g (74%) of 10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine, m.p. 135°-140° C.

reactant | 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 4.2 g | CN1N2C(C=NC3=C1C=CN=C3)=CC=C2 | C11H10N4
reactant | sodium borohydride | 800 mg | [BH4-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 3.1 g, 74% | CN1N2C(CNC3=C1C=CN=C3)=CC=C2 | C11H12N4
